US04439448
In 15% hydrogen chloride-ethanol, m- or o-nitrophenylacetic acid was ethyl-esterified and the resulting ethyl ester was hydrogenated with palladium catalyst in ethanol to give m- or o-aminophenylacetic acid ethyl ester.

reactant | o-nitrophenylacetic acid | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)O | C8H7NO4
reactant | hydrogen chloride ethanol | Cl.C(C)O
catalyst | palladium | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | o-aminophenylacetic acid ethyl ester | C(C)OC(CC1=C(C=CC=C1)N)=O | C10H13NO2
